US05128355
Part D: Preparation of 3-[1-(4-Aminobenzyl)-2-butyl-4-chloroimidazol-5-yl]propen-1-ol, E isomer
A mixture of 0.2 g of 3-[1-(4-nitrobenzyl)-2-butyl-4-chloroimidazole-5-yl]propen-1-ol, 0.15 g of iron and 0.3 mL of glacial acetic acid in 10 mL of absolute ethanol was refluxed for 1 hour. The reaction mixture was concentrated to dryness and the residue was dissolved in 20 mL of water and the solution was made basic to pH 8 by adding K2CO3. The mixture was then extracted with ehtyl acetate and the ethyl acetate layer was washed with water. The organic layer was concentrated to give a crude product which was purified by flash silica gel column chromatography (ethyl acetate elution). A pure product was obtained as an amorphous solid; NMR (200 MHz, CDCl2): δ 6.76 and 6.62 (dd, 4H, J=8.5 Hz); 6.42-622 (m, 2H); 2.57 (t, 2H, J=7.3 Hz); 1.65 (m, 2H); 1.33 (m, 2H); 0.87 (t, 2H, J=7.3 Hz).

reactant | 3-[1-(4-nitrobenzyl)-2-butyl-4-chloroimidazole-5-yl]propen-1-ol | 0.2 g | [N+](=O)([O-])C1=CC=C(CN2C(=NC(=C2CC=CO)Cl)CCCC)C=C1 | C17H20ClN3O3
reactant | acetic acid | 0.3 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | iron | 0.15 g | [Fe] | Fe
product | 3-[1-(4-Aminobenzyl)-2-butyl-4-chloroimidazol-5-yl]propen-1-ol | NC1=CC=C(CN2C(=NC(=C2CC=CO)Cl)CCCC)C=C1 | C17H22ClN3O
